US04323509
Dichloromethane (1275 g), iron (III) oxide (200 g) and iron (III) cloride (5.0 g) were charged to a reaction vessel and the stirred mixture was heated to reflux temperature (ca. 40° C.). A mixture of furan (85.1 g) and tert.butyl chloride (289.3 g) was then run into the solvent/catalyst mixture during about 1.5 hours, and the mixture was then maintained at reflux temperature, with stirring, for a further 1.5 hours after the addition was complete. The reaction mixture was then filtered to remove the catalyst, which was washed on the filter with dichloromethane (2×100 g). The filtrate and washings were combined and the dichloromethane was distilled off until the internal temperature of the mixture reached 60°-65° C. Glycerol (125 g) was then added and the mixture was subjected to distillation under reduced pressure to give 2,5-di-tert.butylfuran (80 g at 85.9% strength=32% of theoretical based on furan charged) b.p. 85° C./15 mm Hg pressure (20 mbar).

reactant | furan | 85.1 g | O1C=CC=C1 | C4H4O
reactant | tert.butyl chloride | 289.3 g | C(C)(C)(C)Cl | C4H9Cl
catalyst | iron (III) oxide | 200 g | [O-2].[Fe+3].[O-2].[O-2].[Fe+3]
catalyst | iron (III) cloride | 5.0 g | [Fe](Cl)(Cl)Cl
solvent | Dichloromethane | 1275 g | ClCCl | CH2Cl2
product | 2,5-di-tert.butylfuran | 80 g | C(C)(C)(C)C=1OC(=CC1)C(C)(C)C | C12H20O
